US09085555B2
A. Imidazo[1,5-a]pyridin-3-yl-acetic acid methyl ester
A suspension of imidazo[1,5-a]pyridin-3-ylacetic acid (Ellanovalabs, 2 g, 11.35 mmol) and camphorsulfonic acid (2.9 g, 12.49 mmol) in MeOH (120 mL) was refluxed for 4 h. Then allowed to cool to RT and concentrated under reduced pressure. The crude residue was diluted in CH2Cl2 and the organic layer was washed with a saturated aqueous solution of NaHCO3. The organics were dried (Na2SO4), filtered and concentrated. The material thus obtained was used in the next step without further purification: TLC, Rf (CH2Cl2/MeOH 9:1)=0.55; MS (UPLC/MS): 191.1 [M+H]+; tR (HPLC conditions f): 0.4 min.

reactant | imidazo[1,5-a]pyridin-3-ylacetic acid | 11.35 mmol, 2 g | C=1N=C(N2C1C=CC=C2)CC(=O)O | C9H8N2O2
reactant | camphorsulfonic acid | 12.49 mmol, 2.9 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | MeOH | 120 mL | CO | CH4O
product | Imidazo[1,5-a]pyridin-3-yl-acetic acid methyl ester | COC(CC1=NC=C2N1C=CC=C2)=O | C10H10N2O2
